US08492582B2
Water (0.60 mL), 2-methylphenylboronic acid (0.029 g), sodium carbonate (0.047 g), and bis(triphenylphosphine)palladium(II) dichloride (2.5 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-bromobenzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 99-91% hexane/ethyl acetate] to obtain 0.10 g of tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate.

reactant | 2-methylphenylboronic acid | 0.029 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 0.047 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-bromobenzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)Br)C=C(C=C1)N1CCCCC1 | C30H33BrN2O4
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 2.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.60 mL | O | H2O
product | tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)C)C=C(C=C1)N1CCCCC1 | C37H40N2O4
